US07365065B2
HBTU (306 mg, 0.81 mmol) was added to a solution of tert-butyl(1-(4-carboxythiazol-2-yl)ethyl)carbamate (200 mg, 0.73 mmol) in DMF (5 ml) at room temperature. Diisopropylethylamine (0.26 ml, 190 mg, 1.5 mmol) and 1,2,3,4-tetrahydroquinoline (0.11 ml, 117 mg, 0.88 mmol) were added and the mixture was stirred for 18 h. The mixture was partitioned between ethyl acetate and 1N hydrochloric acid and separated. The organic layer was washed with water and brine, dried and reduced. Chromatography (45% EtOAc/55% hexanes) afforded tert-butyl(1-(4-(1,2,3,4-tetrahydroquinoline-1-carbonyl) thiazol-2-yl)ethyl)carbamate (180 mg, 63%).

reactant | HBTU | 0.81 mmol, 306 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | tert-butyl(1-(4-carboxythiazol-2-yl)ethyl)carbamate | 0.73 mmol, 200 mg | C(C)(C)(C)OC(NC(C)C=1SC=C(N1)C(=O)O)=O | C11H16N2O4S
reactant | Diisopropylethylamine | 1.5 mmol, 0.26 ml, 190 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1,2,3,4-tetrahydroquinoline | 0.88 mmol, 0.11 ml, 117 mg | N1CCCC2=CC=CC=C12 | C9H11N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | tert-butyl(1-(4-(1,2,3,4-tetrahydroquinoline-1-carbonyl) thiazol-2-yl)ethyl)carbamate | 180 mg, 63% | C(C)(C)(C)OC(NC(C)C=1SC=C(N1)C(=O)N1CCCC2=CC=CC=C12)=O | C20H25N3O3S
